US04230850
4-(2'-Pyrrolidinoethoxy)-3-phenyl-coumarin
In accordance with Example 1, 10 g. (0.042 mol) of 3-phenyl-4-hydroxy-coumarin are caused to react with 9.3 g. (0.055 mol) of 2-pyrrolidino-1-chlorethane. After evaporation of the methyl isobutyl ketone, the pasty residue is taken up under heat in 150 ml. of a 5% solution of sodium bicarbonate, this being followed by cooling and extraction with chloroform. The substance obtained is dried over Na2SO4 and the chloroform is evaporated under vacuum. A brown oil is obtained. Weight 6.5 g.; yield 46% (theoretical yield 14.1 g.).

reactant | 3-phenyl-4-hydroxy-coumarin | 0.042 mol | C1(=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O | C15H10O3
reactant | 2-pyrrolidino-1-chlorethane | 0.055 mol | N1(CCCC1)CCCl | C6H12ClN
product | 4-(2'-Pyrrolidinoethoxy)-3-phenyl-coumarin | yield 46% | N1(CCCC1)CCOC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1 | C21H21NO3
